US09233098B2
9. Preparation of 2-[1-[4-(2-naphthamido)benzyl]-1H-pyrazolo[3,4-b]pyridin-3-yl]acetic acid
Methyl 2-[1-[4-(2-naphthamido)benzyl]-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate (60 mg, 0.13 mmol) and lithium hydroxide monohydrate (10 mg, 0.24 mmol) were added into a mixed solution of tetrahydrofuran (5 mL) and water (20 mL), and reacted at room temperature for 2 hours. Tetrahydrofuran was rotate evaporated. The pH was adjusted to 3 with 1 mol/L hydrochloric acid. It was extracted with ethyl acetate, and dried over anhydrous sodium sulfate. The organic phase was rotate evaporated to dryness to obtain a light brown solid 28 mg, at a yield of 49.3%.

reactant | Methyl 2-[1-[4-(2-naphthamido)benzyl]-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate | 0.13 mmol, 60 mg | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CN2N=C(C=3C2=NC=CC3)CC(=O)OC)C=C1 | C27H22N4O3
reactant | lithium hydroxide monohydrate | 0.24 mmol, 10 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-[1-[4-(2-naphthamido)benzyl]-1H-pyrazolo[3,4-b]pyridin-3-yl]acetic acid | 28 mg, yield of 49.3% | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CN2N=C(C=3C2=NC=CC3)CC(=O)O)C=C1 | C26H20N4O3
